US04474809
4-[[2-[4-(Cyclohexylmethoxy)phenyl]-2-oxo-1-hydroxyethyl]amino]-benzoic acid
A mixture of 2.3 g. of [p-(cyclohexylmethoxy)-phenyl]glyoxal hemihydrate, 1.06 g. of p-aminobenzoic acid, 50 ml. of tetrahydrofuran and 17 ml. of water was heated at boiling for 45 minutes, stripped of tetrahydrofuran and the solid collected. This solid was recrystallized from 200 ml. of acetonitrile, then dissolved in boiling acetone, filtered while hot and 200 ml. of water added to the hot filtrate. This mixture was cooled to 0° C. and the solid collected, giving the desired product as a pale yellow solid, m.p. 188°-190° C.

reactant | [p-(cyclohexylmethoxy)-phenyl]glyoxal hemihydrate | O.C1(CCCCC1)COC1=CC=C(C=C1)C(=O)C=O.C1(CCCCC1)COC1=CC=C(C=C1)C(=O)C=O
reactant | p-aminobenzoic acid | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-[[2-[4-(Cyclohexylmethoxy)phenyl]-2-oxo-1-hydroxyethyl]amino]-benzoic acid | C1(CCCCC1)COC1=CC=C(C=C1)C(C(O)NC1=CC=C(C(=O)O)C=C1)=O | C22H25NO5
